US05972972
B. Preparation of ethyl 3-(4-carboethoxyphenyl)propanol
The ethyl 3-(4-carboethoxyphenyl)propionate (1.23 g, 4.91 mmol) was dissolved in 11 ml of absolute ethanol, cooled in an ice bath, and treated with 0.25 ml of a 2 N cupric sulfate solution in water. Sodium borohydride (0.93 g, 24.6 mmol) was added in small portions over one hour. The reaction was stirred at room temperature over night and then evaporated. The residue was slurried in brine and extracted twice with chloroform. The extracts were filtered through celite, dried over MgSO4, and concentrated to afford 1.0 g (98%) of the subtitle compound.

reactant | ethyl 3-(4-carboethoxyphenyl)propionate | 4.91 mmol, 1.23 g | C(=O)(OCC)C1=CC=C(C=C1)CCC(=O)OCC | C14H18O4
reactant | Sodium borohydride | 24.6 mmol, 0.93 g | [BH4-].[Na+]
reactant | ethanol | 11 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 3-(4-carboethoxyphenyl)propanol | 1.0 g, 98% | C(C)C(CCC1=CC=C(C=C1)C(=O)OCC)O | C14H20O3
